US03947406
Acetone (11.6 g.) in ethanol (50 c.c.) was stirred at below 0°C and 1-amino-3,3,5-trimethylcyclohexyl hydroperoxide (17.3 g.; 80% pure) added. After stirring for ca. 1 hour the solid had dissolved. To the solution was added magnesium sulphate and it was stored at 0° overnight. Filtration and distillation gave acetone and dihydroisophorone (probably containing some symmetrical amino-peroxide ##EQU20## and a product (2.2 g.), b.p. 75° - 78°/1.0 mm, had a peroxide equivalent 239.4 and gave N, 6.3% an elemental analysis.

reactant | Acetone | 11.6 g | CC(=O)C | C3H6O
reactant | 1-amino-3,3,5-trimethylcyclohexyl hydroperoxide | 17.3 g | NC1(CC(CC(C1)C)(C)C)OO | C9H19NO2
reactant | magnesium sulphate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | ethanol | C(C)O | C2H6O
product | dihydroisophorone | CC1CC(=O)CC(C1)(C)C | C9H16O
